US04162257
5-(4-Chlorophenyl)-N,N-dimethyl-2-furamide
A mixture of 58 g (0.26 mole) of 5-(4-chlorophenyl)-2-furoic acid and 120 ml of thionyl chloride was heated under reflux for 3 hrs. The thionyl chloride was removed on a rotary evaporator. A small amount of benzene was added to the residual solid and then removed on a rotary evaporator. The furoyl chloride was dissolved in 300 ml of dioxane with stirring and treated dropwise with a solution of 300 ml of dioxane containing 26 g (0.58 mole) of dimethylamine, while maintaining the temperature between 15°-25°. The reaction solution was stirred at room temperature overnight and then at 80° for 4 hrs. with a small amount of solid forming. The mixture was added to 2000 ml of water and resulting solid was filtered and dried at 60° to yield 58 g (77%). An analytical sample was prepared by recrystallizing a sample from hexane, m.p. 101°-102°.

reactant | 5-(4-chlorophenyl)-2-furoic acid | 0.26 mole, 58 g | ClC1=CC=C(C=C1)C1=CC=C(O1)C(=O)O | C11H7ClO3
reactant | thionyl chloride | 120 ml | S(=O)(Cl)Cl | Cl2OS
reactant | dioxane | 0.58 mole, 300 ml, 26 g | O1CCOCC1 | C4H8O2
reactant | dimethylamine | CNC | C2H7N
solvent | water | 2000 ml | O | H2O
product | 5-(4-Chlorophenyl)-N,N-dimethyl-2-furamide | ClC1=CC=C(C=C1)C1=CC=C(O1)C(=O)N(C)C | C13H12ClNO2
